US08735379B2
To a mixture of benzyl 2-aminoethylcarbamate (1.65 g, 8.5 mmol), imidazole (0.58 g, 8.5 mmol), salicylic acid (1.73 g, 8.5 mmol) in ethyl acetate (30 mL) was added a solution of DCC (1.75 g, 8.5 mmol) in ethyl acetate (50 mL). The mixture was stirred (RT, 16 h) and filtered. The solution was concentrated under reduced pressure and the crude product was purified by silica chromatography (EtOAc:PE, 0-50%) to afford benzyl 2-(2-hydroxybenzamido)ethylcarbamate as a white solid (1.84 g, 66%). Mass calculated for C17H18N2O4=314.34. found: [M+H]+=315.2.

reactant | benzyl 2-aminoethylcarbamate | 8.5 mmol, 1.65 g | NCCNC(OCC1=CC=CC=C1)=O | C10H14N2O2
reactant | imidazole | 8.5 mmol, 0.58 g | N1C=NC=C1 | C3H4N2
reactant | salicylic acid | 8.5 mmol, 1.73 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | DCC | 8.5 mmol, 1.75 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | benzyl 2-(2-hydroxybenzamido)ethylcarbamate | 1.84 g, 66% | OC1=C(C(=O)NCCNC(OCC2=CC=CC=C2)=O)C=CC=C1 | C17H18N2O4
